US08871756B2
2-{4-[(2-Aminoethyl)amino]-6-chloroquinolin-2-yl}-N,N-dimethyl-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxamide
The mixture of 2-(4,6-dichloroquinolin-2-yl)-N,N-dimethyl-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxamide (133 mg, 0.32 mmol) and ethane-1,2-diamine (2 mL) was heated with stirring in a 5 mL microwave process vial for 3 hours at 180° C. under microwave irradiation. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC to give 11 mg of product as a white solid. MS obsd. (ESI+) [(M+H)+] 438. 1H NMR (400 MHz, CD3OD) δ ppm 7.89 (s, 1 H), 7.60 (d, J=8.0 Hz, 1 H), 7.49 (d, J=8.8 Hz, 1 H), 7.38 (m, 1 H), 7.22 (m, 2 H), 6.01 (s, 1 H), 4.80 (s, 2 H), 4.16 (m, 2 H), 3.44 (t, J=6.4 Hz, 2 H), 3.11-2.97 (m, 10 H), 1.93 (m, 2 H).

reactant | 2-(4,6-dichloroquinolin-2-yl)-N,N-dimethyl-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxamide | 0.32 mmol, 133 mg | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CC2=C(CCC1)C=C(C=C2)C(=O)N(C)C | C22H21Cl2N3O
reactant | ethane-1,2-diamine | 2 mL | C(CN)N | C2H8N2
product | 2-{4-[(2-Aminoethyl)amino]-6-chloroquinolin-2-yl}-N,N-dimethyl-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxamide | 11 mg | NCCNC1=CC(=NC2=CC=C(C=C12)Cl)N1CC2=C(CCC1)C=C(C=C2)C(=O)N(C)C | C24H28ClN5O
